US09216173B2
A mixture of tert-butyl (4-cyanotetrahydro-2H-pyran-4-yl)carbamate (59 g, 260 mmol) and Raney Nickel (25 g) in isopropanol and ammonia (700 mL) was stirred under a hydrogen atmosphere. After 36 hours, the solids were filtered and the filtrate was concentrated under reduced pressure. The residue was recrystallized from DCM (60 mL) to afford tert-butyl [4-(aminomethyl)tetrahydro-2H-pyran-4-yl]carbamate. MS ESI calc'd. for C11H23N2O3 [M+H]+ 231. found 231. 1H NMR (400 MHz, CDCl3) δ 4.42 (s, 1H), 3.77 (d, J=11.6 Hz, 2H), 3.66-3.60 (m, 2H), 2.94 (s, 2H), 1.97-1.94 (d, J=13.6 Hz, 2H), 1.57 (m, 2H), 1.44 (s, 9H), 1.28 (s, 2H).

reactant | tert-butyl (4-cyanotetrahydro-2H-pyran-4-yl)carbamate | 260 mmol, 59 g | C(#N)C1(CCOCC1)NC(OC(C)(C)C)=O | C11H18N2O3
catalyst | Raney Nickel | 25 g | [Ni] | Ni
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | ammonia | 700 mL | N | H3N
product | tert-butyl [4-(aminomethyl)tetrahydro-2H-pyran-4-yl]carbamate | NCC1(CCOCC1)NC(OC(C)(C)C)=O | C11H22N2O3
